data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2888,3209,[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]#[C:9][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][O:28][C:29](=[O:30])[C-:31]([C:32]([CH3:33])=[O:34])[N+:35]([CH3:36])=[C:37]([c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1)[c:44]1[cH:45][cH:46][cH:47][cH:48][cH:49]1>>[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]2=[C:9]([C:10]([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[CH2:23][CH2:24][CH2:25][CH2:26]1)[C:37]([c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1)([c:44]1[cH:45][cH:46][cH:47][cH:48][cH:49]1)[N:35]([CH3:36])[C:31]2([C:29]([O:28][CH3:27])=[O:30])[C:32]([CH3:33])=[O:34],water,298.15,53.75049994082022,1.2297860933322151
4905,5589,[CH3:10][C:11](=[O:12])[C:13](=[NH+:14][N-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]([C:11]([CH3:10])=[O:12])([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[NH:14][N:15]1[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,24.41465086122622,-7.336693848928045
4859,5542,[CH3:10][O:11][C:12](=[O:13])[N-:14][N+:15]([CH3:16])=[C:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:14]([C:12]([O:11][CH3:10])=[O:13])[N:15]([CH3:16])[C:17]1([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,28.61979308529856,-6.938831411828907
1313,1440,[CH3:16][NH:17][C:18](=[O:19])[C:20]([C:21]#[N:22])=[NH+:23][CH-:24][C:25]#[N:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:21]#[N:22])[NH:23][CH:24]3[C:25]#[N:26],water,298.15,14.144867920940658,-35.138140074498985
404,440,[CH3:1][O:2][C:3]#[C:4][Cl:5].[CH:6](=[O+:7][N-:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[O:7][N:8]1[c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1,water,298.15,14.754469248302494,-65.92445998408081
2360,2622,[CH3:13][O:14][C:15](=[O:16])[CH-:17][N+:18]([CH3:19])=[C:20]([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([CH3:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([CH3:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[CH:17]([C:15]([O:14][CH3:13])=[O:16])[N:18]([CH3:19])[C:20]2([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,29.32976194237228,-33.59806871525207
1137,1236,[CH3:18][NH:19][C:20](=[O:21])[N-:22][N+:23]#[N:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]#[C:8][C:9]([O:10][CH3:11])([O:12][CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([CH3:6])[c:7]2[c:8]([n:22]([C:20]([NH:19][CH3:18])=[O:21])[n:23][n:24]2)[C:9]([O:10][CH3:11])([O:12][CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1,water,298.15,26.097939759964465,-44.83052320675268
4660,5315,[CH3:10][O:11][C:12](=[O:13])[c-:14]1[nH+:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[o:23][c:24]1=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]2([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[NH:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:24](=[O:25])[O:23]2,water,298.15,32.56706541857007,12.984711009528588
2130,2364,[CH3:12][NH:13][C:14](=[O:15])[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)=[N+:23]([CH3:24])[C-:25]([CH3:26])[C:27](=[O:28])[NH:29][CH3:30].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[N:23]([CH3:24])[C:25]3([CH3:26])[C:27](=[O:28])[NH:29][CH3:30],water,298.15,19.669470966176547,-50.56955280938698
126,142,[CH3:10][c:11]1[o:12][c:13](=[O:14])[n-:15][n+:16]1[CH3:17].[CH3:1][C:2]1=[C:3]([CH3:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]1=[C:3]([CH3:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[N:15]1[C:13](=[O:14])[O:12][C:11]3([CH3:10])[N:16]1[CH3:17],water,298.15,28.141346654854864,-1.4363357226058693
